US05726306
In ethyl acetate (20 ml) was dissolved ethyl ester of trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-crotonic acid (0.45 g). To the solution was added 10% palladium carbon (0.1 g), and the mixture was subjected to catalytic reduction at room temperatures under atmospheric pressure. The theoretical amount of hydrogen was allowed to be absorbed, then the catalyst was removed, followed by distilling off ethyl acetate under reduced pressure. The residue was crystallized from a small volume of hexane to give ethyl ester of trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-butyric acid (0.37 g) as prisms, m.p.100°-101° C.

reactant | trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-crotonic acid | 0.45 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)C/C=C/C(=O)O)C2=C(C=CC=C2)Cl)C1 | C22H21Cl2NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-butyric acid | 0.37 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)CCCC(=O)O)C2=C(C=CC=C2)Cl)C1 | C22H23Cl2NO4
